US09340544B2
(2-Chloro-7-methyl-7H-purin-6-yl)-(4-chloro-phenyl)-amine
Was prepared according to Example 3 from N-(4-chloro-phenyl)-formamide and 2,6-dichloro-7-methyl-7H-purine.

reactant | N-(4-chloro-phenyl)-formamide | ClC1=CC=C(C=C1)NC=O | C7H6ClNO
reactant | 2,6-dichloro-7-methyl-7H-purine | ClC1=NC(=C2N(C=NC2=N1)C)Cl | C6H4Cl2N4
product | (2-Chloro-7-methyl-7H-purin-6-yl)-(4-chloro-phenyl)-amine | ClC1=NC(=C2N(C=NC2=N1)C)NC1=CC=C(C=C1)Cl | C12H9Cl2N5
